US04073912
A well stirred mixture of 37.2 g. (0.15 mole) of o-iodobenzoic acid, 34.0 g. (0.15 mole) of 2-mercaptonaphthalene, 20.6 g. (0.15 mole) of potassium carbonate and 300 ml. of pyridine is heated at 50° C. for 1 hour, then 5 g. of cuprous chloride is added and the stirred mixture is heated at reflux for 18 hours. The mixture is poured into 1.2 liters of water and filtered. The filtrate is acidified and the resulting mixture is extracted into methylene chloride. The extracts are dried, concentrated, and the solid residue is recrystallized to give 2-(2-naphthylthio)benzoic acid.

reactant | o-iodobenzoic acid | 0.15 mole | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 2-mercaptonaphthalene | 0.15 mole | SC1=CC2=CC=CC=C2C=C1 | C10H8S
reactant | potassium carbonate | 0.15 mole | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | 1.2 liters | O | H2O
product | 2-(2-naphthylthio)benzoic acid | C1=C(C=CC2=CC=CC=C12)SC1=C(C(=O)O)C=CC=C1 | C17H12O2S
